US05700809
3-(1,2,3,4-Tetrahydroisoquinoline-2-yl)methyl-1H-pyrrolo[2,3-b]pyridine
1,2,3,4-Tetrahydroisoquinoline (1.37 g, 10.0 mmol) was dissolved in acetic acid (4 ml) and water (2 ml). 37% Aqueous formaldehyde (0.9 ml, 12 mmol) was added and the reaction mixture stirred for five minutes, 1H-pyrrolo[2,3-b]pyridine (1.18 g, 9.99 mmol) added and the resulting solution stirred at room temperature for 20 h. The reaction mixture was poured into 2M aqueous sodium hydroxide solution (50 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water (50 ml) and brine (50 ml). The organic phase was dried (MgSO4) and concentrated in vacuo to give a lemon solid. Recrystallisation from toluene gave the title compound (0.935 g, 36%), as an off-white solid, m.p. 190°-192° C.; (Found: C, 77.51; H, 6.50; N, 15.57. C17H17N3 requires C, 77.54; H, 6.51; N, 15.96%); δH (DMSO-d6) 2.68 (2H, t, J 7.8 Hz, CH2), 2.77 (2H, d, J 7.5 Hz, CH2), 3.55 (2H, s, CH2), 3.79 (2H, s, CH2), 6.97-7.07 (5H, m, ArH), 7.41 (1H, d, J 1.8 Hz, ArH), 8.03 (1H, dd, J 7.8, 1.5 Hz, 4-H), 8.20 (1H, dd, J 4.6, 1.5 Hz, 6-H), and 11.48 (1H, br s, NH); m/z (CI+, NH3) 264 (M+1)+.

reactant | 1,2,3,4-Tetrahydroisoquinoline | 10.0 mmol, 1.37 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | formaldehyde | 12 mmol, 0.9 ml | C=O | CH2O
reactant | 1H-pyrrolo[2,3-b]pyridine | 9.99 mmol, 1.18 g | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | sodium hydroxide | 2M, 50 ml | [OH-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | 3-(1,2,3,4-Tetrahydroisoquinoline-2-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 0.935 g, 36% | C1N(CCC2=CC=CC=C12)CC1=CNC2=NC=CC=C21 | C17H17N3
